US04034002
7-[2-(3-Hydroxy-3-Phenyl-1-Octenyl)-3-Nitromethyl-5-Oxo-Cyclopentyl]-5-Heptenoic Acid
A solution of 0.3 g. of 7-[8-nitromethyl-7-(3-hydroxy-3-phenyl-1-octenyl)-1,4-dioxaspiro[4.4]-non-6-yl]-5-heptenoic acid in 6 ml. of dry tetrahydrofuran was treated at 0° C. with 0.6 ml. of concentrated hydrochloric acid and stirred at 0° C. for 1.5 hours. The reaction mixture was added to water and extracted with ether. After washing with water and drying over magnesium sulfate, the extract was evaporated and the residue chromatographed on silica. Elution with 33% ethyl acetate in hexane gave 0.08 g. of the title product as an oil, λmaxfilm 3.00 (shoulder), 3.40, 5.75, 6.40, 7.20, 10.20, 13.20, 14.18 μ. NMR: δ 4.45 (m, 2, --CH2NO2), 5.40 (m, 2, 5 and 6--H), 5.85 (m, 2, 13 and 14--H), 5.90 (s, 2, OH), 7.40 (s, 5, aromatic-- H) ppm. Mass spectrum: M+ at m/e 471 (theory 471), M+ --H2O at m/e 453 (theory 453).

reactant | 7-[8-nitromethyl-7-(3-hydroxy-3-phenyl-1-octenyl)-1,4-dioxaspiro[4.4]-non-6-yl]-5-heptenoic acid | [N+](=O)([O-])CC1C(C(C2(OCCO2)C1)CC=CCCCC(=O)O)C=CC(CCCCC)(C1=CC=CC=C1)O | C29H41NO7
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 7-[2-(3-Hydroxy-3-Phenyl-1-Octenyl)-3-Nitromethyl-5-Oxo-Cyclopentyl]-5-Heptenoic Acid | OC(C=CC1C(C(CC1C[N+](=O)[O-])=O)CC=CCCCC(=O)O)(CCCCC)C1=CC=CC=C1 | C27H37NO6
